US04492693
α-Methoxyimino-α-(6-fluoro-3-benzothienyl)acetic acid
A solution of 3.50 g of ethyl α-methoxyimino-α-(6-fluoro-3-benzothienyl)acetate in 75 ml of ethanol containing 40 ml of 0.5N sodium hydroxide was stirred at 24° C. for nineteen hours. The solution was then concentrated to a volume of about 50 ml, and 50 ml of water were added. The aqueous solution was washed with dichloromethane, filtered, and then acidified to pH 2 by addition of 6N hydrochloric acid. The precipitate that formed was collected by filtration and identified as 3.02 g (95%) of α-methoxyimino-α-(6-fluoro-3-benzothienyl)acetic acid. m.p. 150°-151° C.

reactant | ethyl α-methoxyimino-α-(6-fluoro-3-benzothienyl)acetate | 3.50 g | CON=C(C(=O)OCC)C1=CSC2=C1C=CC(=C2)F | C13H12FNO3S
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | α-Methoxyimino-α-(6-fluoro-3-benzothienyl)acetic acid | CON=C(C(=O)O)C1=CSC2=C1C=CC(=C2)F | C11H8FNO3S
